US05147874
8-Bromo-2,3-dihydropyrrolo[1,2,3-de]-1,4-benzothiazine-5,6-dione
To a solution of 2,3-dihydropyrrolo[1,2,3-de]-1,4-benzothiazine-5,6-dione (2.05 g) in acetic acid (40 ml) was added bromine (0.5 ml) in acetic acid (10 ml) dropwise. The mixture was stirred for 5 hours at room temperature and poured into ice water (200 ml) and the resultant precipitate was collected by filtration, washed with water and dried to yield the title compound (2.10 g, 73.9%). The compound was recrystallized from acetonitrile to give dark red needles, mp 196° C.

reactant | 2,3-dihydropyrrolo[1,2,3-de]-1,4-benzothiazine-5,6-dione | 2.05 g | S1CCN2C=3C1=CC=CC3C(C2=O)=O | C10H7NO2S
reactant | bromine | 0.5 ml | BrBr | Br2
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 8-Bromo-2,3-dihydropyrrolo[1,2,3-de]-1,4-benzothiazine-5,6-dione | 2.10 g, 73.9% | BrC=1C=C2C=3N(CCS2)C(C(C3C1)=O)=O | C10H6BrNO2S
